US09085583B2
Step 4: Methyl 1-(1-(1,4-dioxan-2-yl)ethyl)-2-methyl-1H-indole-3-carboxylate
To a solution of (E)-methyl 3-((1-(1,4-dioxan-2-yl)ethyl)imino)-2-(2-bromophenyl)butanoate (400 mg, 1.1 mmol) in dioxane (3 mL) was added Chloro[2-(dicyclohexylphosphino)-3,6-dimethoxy-2′,4′,6′-triisopropylbiphenyl][2-(2-aminoethyl)phenyl]Pd(II) (160 mg, 0.2 mmol), 2-Dicyclohexyphosphino-2′,6′-diisopropoxybiphenyl (93 mg, 0.2 mmol) and sodium tert-butoxide (192 mg, 2 mmol). The resulting reaction mixture was heated to 120° C. with stirring for 30 mins in a microwave. The reaction mixture was quenched by adding water and was extracted with ethyl acetate (25 mL×3). The combined organic phase was dried by anhydrous sodium sulphate, and then filtered. The filtrate was concentrated and purified by column chromatograph on silica gel (eluted: petrol ether Iacetic ester 10:1→5:1→2:1) to afford the title compound (282 mg, 89%) as yellow solid. LCMS (M+H+) m/z: calcd. 303.15. found 303.9.

reactant | (E)-methyl 3-((1-(1,4-dioxan-2-yl)ethyl)imino)-2-(2-bromophenyl)butanoate | 1.1 mmol, 400 mg | O1C(COCC1)C(C)\N=C(\C(C(=O)OC)C1=C(C=CC=C1)Br)/C | C17H22BrNO4
reactant | sodium tert-butoxide | 2 mmol, 192 mg | CC(C)([O-])C.[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | Methyl 1-(1-(1,4-dioxan-2-yl)ethyl)-2-methyl-1H-indole-3-carboxylate | 282 mg, 89% | O1C(COCC1)C(C)N1C(=C(C2=CC=CC=C12)C(=O)OC)C | C17H21NO4
